US06861422B2
cis-4-(4-cyclopropylmethyl-piperazin-1-yl)-cyclohexylamine
8.5 g (20 mmol) of cis-dibenzyl-[4-(4-cyclopropylmethyl-piperazin-1-yl)-cyclohexyl]-amine were dissolved in 170 mL MeOH and hydrogenated on 1.7 g Pd/C (10%) at 30-50° C. The solvent was eliminated in vacuo and the residue was crystallised from ethanol and conc. HCl. Yield: 4.4 g (91%).

reactant | cis-dibenzyl-[4-(4-cyclopropylmethyl-piperazin-1-yl)-cyclohexyl]-amine | 20 mmol, 8.5 g | C(C1=CC=CC=C1)N([C@@H]1CC[C@@H](CC1)N1CCN(CC1)CC1CC1)CC1=CC=CC=C1 | C28H39N3
solvent | MeOH | 170 mL | CO | CH4O
catalyst | Pd/C | 1.7 g | [Pd] | Pd
product | cis-4-(4-cyclopropylmethyl-piperazin-1-yl)-cyclohexylamine | C1(CC1)CN1CCN(CC1)[C@H]1CC[C@H](CC1)N | C14H27N3
